US07786165B2
methyl 3-[4-([(2-nitrophenyl)sulfonyl]{4-[(2-phenyl-1H-indol-1-yl)methyl]benzyl}amino)phenyl]propanoate
A solution of methyl 3-(4-{[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate (0.583 g, 1.60 mmol), {4-[(2-phenyl-1H-indol-1-yl)methyl]phenyl}methanol (0.470 g, 1.50 mmol) and triphenylphosphine (0.787 g, 3.00 mmol) in tetrahydrofuran (25 mL) was stirred under ice-cooling, and diethyl azodicarboxylate (40% toluene solution, 1.36 mL, 3.00 mmol) was added. The mixture was allowed to warm to room temperature and stirred for 3 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (20%-60% ethyl acetate/hexane). Hexane-ethyl acetate was added to the obtained residue and the resultant insoluble material was filtered off. The filtrate was concentrated to give the title compound as a brown oil.

reactant | methyl 3-(4-{[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate | 1.60 mmol, 0.583 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NC1=CC=C(C=C1)CCC(=O)OC | C16H16N2O6S
reactant | {4-[(2-phenyl-1H-indol-1-yl)methyl]phenyl}methanol | 1.50 mmol, 0.470 g | C1(=CC=CC=C1)C=1N(C2=CC=CC=C2C1)CC1=CC=C(C=C1)CO | C22H19NO
reactant | triphenylphosphine | 3.00 mmol, 0.787 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 3.00 mmol, 1.36 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | methyl 3-[4-([(2-nitrophenyl)sulfonyl]{4-[(2-phenyl-1H-indol-1-yl)methyl]benzyl}amino)phenyl]propanoate | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N(C1=CC=C(C=C1)CCC(=O)OC)CC1=CC=C(C=C1)CN1C(=CC2=CC=CC=C12)C1=CC=CC=C1 | C38H33N3O6S
